US05102877
To a solution of 2-(1-allyloxycarbonyl-1,2,5,6-tetrahydropyridin-3-yl)-2-methyl-1,3-dioxolane (6.95 g) in acetone (140 ml) was added p-toluenesulfonic acid dihydrate (523 mg) at room temperature and the mixture was stirred at the same temperature for 1 hour. Then, saturated aqueous sodium hydrogen carbonate solution was added for neutralization of the acid and the reaction mixture was concentrated under reduced pressure. The concentrate was diluted with ethyl acetate and water, followed by stirring, and the aqueous layer was separated and extracted with 2 portions of ethyl acetate. The organic layers were combined, washed successively with saturated aqueous sodium hydrogen carbonate solution, water and aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by column chromatography to give 1-allyloxycarbonyl-3-acetyl-1,2,5,6-tetrahydropyridine (4.43 g).

reactant | 2-(1-allyloxycarbonyl-1,2,5,6-tetrahydropyridin-3-yl)-2-methyl-1,3-dioxolane | 6.95 g | C(C=C)OC(=O)N1CC(=CCC1)C1(OCCO1)C | C13H19NO4
reactant | p-toluenesulfonic acid dihydrate | 523 mg | O.O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 140 ml | CC(=O)C | C3H6O
product | 1-allyloxycarbonyl-3-acetyl-1,2,5,6-tetrahydropyridine | 4.43 g | C(C=C)OC(=O)N1CC(=CCC1)C(C)=O | C11H15NO3
